US07371869B2
To a cold solution of 3-[(S)-2-[4-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-2,5-dioxo-imidazolidin-1-yl]-2-(4-methoxycarbonyl-thiazol-2-ylcarbamoyl)-ethyl]-indole-1-carboxylic acid tert-butyl ester (78 mg, 0.118 mmol) in dichloromethane (10 mL), was added trifluoroacetic acid (2 mL, 26.0 mmol). The reaction mixture was stirred at room temperature for 1 hour. The volatiles were removed in vacuo and the residue was dissolved in ethyl acetate (100 mL), washed once with cold saturated aqeous sodium bicarbonate, water, brine and dried over sodium sulfate. The solvent was removed and the residue was purified by chromatographed over silica gel gradient eluted between 50% and 75% ethyl acetate in hexanes to afford 2-[(S)-2-[4-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-2,5-dioxo-imidazolidin-1-yl]-3-(1H-indol-3-yl)-propionylamino]-thiazole-4-carboxylic acid methyl ester (37 mg, 55%).

reactant | 3-[(S)-2-[4-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-2,5-dioxo-imidazolidin-1-yl]-2-(4-methoxycarbonyl-thiazol-2-ylcarbamoyl)-ethyl]-indole-1-carboxylic acid tert-butyl ester | 0.118 mmol, 78 mg | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C[C@@H](C(NC=1SC=C(N1)C(=O)OC)=O)N1C(NC(C1=O)C1=CC2=C(OCCO2)C=C1)=O | C32H31N5O9S
reactant | trifluoroacetic acid | 26.0 mmol, 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-[(S)-2-[4-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-2,5-dioxo-imidazolidin-1-yl]-3-(1H-indol-3-yl)-propionylamino]-thiazole-4-carboxylic acid methyl ester | 37 mg, 55% | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CNC2=CC=CC=C12)N1C(NC(C1=O)C1=CC2=C(OCCO2)C=C1)=O)=O | C27H23N5O7S
